US07851471B2
(4-Methyl-morpholin-2-yl)-methanol (1.05 g, 8.0 mmol) and DIPEA (2.79 ml, 16.0 mmol were dissolved in DCM (80 mL) and the reaction mixture was cooled to 0° C. and p-nitrophenyl chloroformate (3.23 g, 16.0 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 2 h. The reaction mixture was divided into 4 batches and concentrated in vacuo. One portion was dissolved in DMF (20 mL) and 1-(4-fluoro-benzyl)-piperazine (0.39 g, 2 mmol) added and the resulting reaction mixture stirred at room temperature for 24 h. The solvent was removed in vacuo and the residue was taken up in DCM (30 mL). The organic layer was washed with 1.0M Na2CO3 solution (3×30 mL), dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by column chromatography (normal phase, 20 g, Strata SI-1, silica gigatube, 20 mL/min, gradient 0% to 5% MeOH in DCM, residue dry loaded). The solvents were removed in vacuo and the residue was dissolved in DCM (50 mL), filtered and 2M HCl in Et2O (2 mL, 4 mmol) added. The solvent was removed in vacuo and the residue was dried in a vacuum oven overnight to give the (4-methylmorpholin-2-yl)methyl 4-(4-fluorobenzyl)piperazine-1-carboxylate dihydrochloride salt (0.375 g, 44%) as a white solid.

reactant | (4-Methyl-morpholin-2-yl)-methanol | 8.0 mmol, 1.05 g | CN1CC(OCC1)CO | C6H13NO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | p-nitrophenyl chloroformate | 16.0 mmol, 3.23 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-(4-fluoro-benzyl)-piperazine | 2 mmol, 0.39 g | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 4 mmol, 2 mL | CCOCC | C4H10O
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | (4-methylmorpholin-2-yl)methyl 4-(4-fluorobenzyl)piperazine-1-carboxylate dihydrochloride salt | 0.375 g, 44% | Cl.Cl.FC1=CC=C(CN2CCN(CC2)C(=O)OCC2CN(CCO2)C)C=C1 | InChI=1S/C18H26FN3O3.2ClH/c1-20-10-11-24-17(13-20)14-25-18(23)22-8-6-21(7-9-22)12-15-2-4-16(19)5-3-15;;/h2-5,17H,6-14H2,1H3;2*1H
